US08030311B2
Step 56.6: (2,6-Dichloro-4-nitro-phenyl)-acetic acid methyl ester
Concentrated sulfuric acid (2 mL, 37.33 mmol, 0.73 equiv) is added dropwise to a solution of (2,6-dichloro-4-nitro-phenyl)-acetic acid (EP 87218) (14.2 g, 51.1 mmol) in MeOH (500 mL). The resulting brown solution is stirred for 6 h at reflux. The reaction mixture is allowed to cool to rt and concentrated in vacuo. The residue is dissolved in EtOAc (400 mL) and a bit of water, washed with a saturated aqueous solution of NaHCO3, dried (Na2SO4), filtered and concentrated. Purification of the crude product by silica gel column chromatography (Hexane/EtOAc, 2:1→1:1) provides the title compound as a yellow solid: ES-MS: 262.1/264.1 [M+H]+; tR=3.78 min (System 2); Rf=0.40 (Hexane/EtOAc, 2:1).

reactant | sulfuric acid | 37.33 mmol, 2 mL, 0.73 equiv | S(O)(O)(=O)=O | H2O4S
reactant | (2,6-dichloro-4-nitro-phenyl)-acetic acid | 51.1 mmol, 14.2 g | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)CC(=O)O | C8H5Cl2NO4
reactant | MeOH | 500 mL | CO | CH4O
product | (2,6-Dichloro-4-nitro-phenyl)-acetic acid methyl ester | COC(CC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl)=O | C9H7Cl2NO4
